US04116972
Aluminium α-[4-(1-oxo-4,7-dihydro-2-isoindolinyl)phenyl]propionate (Compound 7)
A mixture of 8.37 g (0.03 mole) of α-[4-(1-oxo-4,7-dihydro-2-isoindolinyl)phenyl]propionic acid and 30 ml of water was stirred for about 1 hour. At the end of this time, a solution of 2.41 g (0.01 mole) of aluminium chloride hexahydrate in 50 ml of water was added to the resulting solution. The white precipitate which was produced was collected by filtration and washed with 75 ml of water. The resulting white solid was then dried at 105° C. for 4 hours. There were obtained 9.0 g of a white solid, sparingly soluble in most organic solvents, slightly soluble in dimethyl sulphoxide and having a melting point above 300° C.

reactant | α-[4-(1-oxo-4,7-dihydro-2-isoindolinyl)phenyl]propionic acid | 0.03 mole, 8.37 g | O=C1N(CC=2CC=CCC12)C1=CC=C(C=C1)C(C(=O)O)C | C17H17NO3
reactant | aluminium chloride hexahydrate | 0.01 mole, 2.41 g | O.O.O.O.O.O.[Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | 50 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | Aluminium α-[4-(1-oxo-4,7-dihydro-2-isoindolinyl)phenyl]propionate | 9.0 g | O=C1N(CC=2CC=CCC12)C1=CC=C(C=C1)C(C(=O)[O-])C.[Al+3].O=C1N(CC=2CC=CCC12)C1=CC=C(C=C1)C(C(=O)[O-])C.O=C1N(CC=2CC=CCC12)C1=CC=C(C=C1)C(C(=O)[O-])C | InChI=1S/3C17H17NO3.Al/c3*1-11(17(20)21)12-6-8-14(9-7-12)18-10-13-4-2-3-5-15(13)16(18)19;/h3*2-3,6-9,11H,4-5,10H2,1H3,(H,20,21);/q;;;+3/p-3
